US06140351
To a suspension of 2-carboxy-3-chloro-5-methylthiophene (1.2 g, 6.6 mmol) in methylene chloride (16 mL) at 0° C. were added oxalyl chloride (0.6 mL, 7.3 mmol) and a drop of DMF. The mixture was stirred at ambient temperature for 5 hours, then concentrated of all volatiles and dried in vacuo to afford 1.3 g (quantitative yield) of 2-chlorocarbonyl-3-chloro-5-methylthiophene as a pale yellow solid; NMR (DMSO-d6 /TFA) 7.4 (s, 1), 2.5 (s, 3) ppm.

reactant | 2-carboxy-3-chloro-5-methylthiophene | 6.6 mmol, 1.2 g | C(=O)(O)C=1SC(=CC1Cl)C | C6H5ClO2S
reactant | oxalyl chloride | 7.3 mmol, 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | 16 mL | C(Cl)Cl | CH2Cl2
product | 2-chlorocarbonyl-3-chloro-5-methylthiophene | 1.3 g, quantitative yield | ClC(=O)C=1SC(=CC1Cl)C | C6H4Cl2OS
